US09260439B2
Step 3: Preparation of tert-butyl(3R)-3-amino-3-methylpyrrolidine-1-carboxylate
To a stirred solution of (3R)-1-benzyl-3-methylpyrrolidin-3-amine (20.7 g, 108.8 mmol) in EtOH (800 mL) was added 20% Pd(OH)2 on carbon (9.17 g). The resulting mixture was stirred at 70° C. under 50 psi of hydrogen for 12 h. The mixture was cooled to room temperature and a solution of (Boc)2O (23.8 g, 109 mmol) in EtOH (50 mL) was added dropwise during a period of 2 h at room temperature. After the addition, the resulting mixture was stirred at room temperature for 12 h. The mixture was filtered through a pad of Celite® washing with EtOH (50 mL×3). The filtrate was concentrated under reduced pressure to provide a residue which was purified by silica gel column chromatography eluting with a gradient of DCM/methanol (methanol containing 10% NH4OH) (10:1), to give 8.50 g (39%) of the title compound as a white solid. 1H NMR (400 MHz, 80° C., DMSO-d6) δ 3.42-3.34 (m, 1 H), 3.32-3.24 (m, 1 H), 3.05 (s, 2H, partially overlapped with H2O), 1.71-1.64 (m, 2 H), 1.51 (br s, 2 H), 1.41 (s, 9 H), 1.18 (s, 3 H). m/z (APCI+) for C10H20N2O2 145.1 (M—t-butylCO2)−.

reactant | (3R)-1-benzyl-3-methylpyrrolidin-3-amine | 108.8 mmol, 20.7 g | C(C1=CC=CC=C1)N1C[C@@](CC1)(N)C | C12H18N2
reactant | hydrogen | [H][H] | H2
reactant | (Boc)2O | 109 mmol, 23.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 800 mL | CCO | C2H6O
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2 on carbon | 9.17 g | [OH-].[OH-].[Pd+2]
product | tert-butyl(3R)-3-amino-3-methylpyrrolidine-1-carboxylate | 8.50 g, 39% | N[C@]1(CN(CC1)C(=O)OC(C)(C)C)C | C10H20N2O2
